US09289430B2
Into a 500-mL round bottom flask, was placed a solution of 4-nitro-1H-imidazole (10 g, 88.50 mmol, 1.00 equiv) in DMSO (50 mL), 1-iodo-3-(trifluoromethyl)benzene (24 g, 88.24 mmol, 1.00 equiv), potassium carbonate (25 g, 181.16 mmol, 2.00 equiv), copper(I) iodide (2.5 g, 13.16 mmol, 0.15 equiv), and L-proline (1.53 g, 13.30 mmol, 0.15 equiv). The resulting solution was stirred overnight at 85° C. in an oil bath. The resulting solution was diluted with 1000 mL of ethyl acetate. The solids were filtered out. The filtrate was washed with 2×500 mL of brine, dried over sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:3) to yield 6.7 g (28%) of 4-nitro-1-(3-(trifluoromethyl)phenyl)-1H-imidazole as a pale solid.

reactant | 4-nitro-1H-imidazole | 88.50 mmol, 10 g, 1.00 equiv | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | 1-iodo-3-(trifluoromethyl)benzene | 88.24 mmol, 24 g, 1.00 equiv | IC1=CC(=CC=C1)C(F)(F)F | C7H4F3I
reactant | potassium carbonate | 181.16 mmol, 25 g, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | L-proline | 13.30 mmol, 1.53 g, 0.15 equiv | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 13.16 mmol, 2.5 g, 0.15 equiv | [Cu]I
product | 4-nitro-1-(3-(trifluoromethyl)phenyl)-1H-imidazole | 6.7 g, 28% | [N+](=O)([O-])C=1N=CN(C1)C1=CC(=CC=C1)C(F)(F)F | C10H6F3N3O2
